US08748415B2
Step 1. Preparation of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((E)-(hydroxyimino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate
To a suspension of tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate (200 mg, 0.334 mmol) in EtOH (20 mL) was added hydroxylamine hydrochloride (186 mg, 2.67 mmol) and potassium carbonate (369 mg, 2.67 mmol) and the mixture was stirred overnight at room temperature. LC/MS showed the mass of the expected product. The mixture was diluted with 7 mL of sat. NaHCO3 and was extracted with dichloromethane (3×7 mL). The combined organic layers were dried with Na2SO4. The drying agent was removed by filtration and the filtrate was concentrated under reduced pressure. The crude product as an off white foam (˜100%) was used in the next step with no additional purification. LCMS: m/e 614.53 (MH+), 3.82 min (method 3). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.90 (2H, m, J=8.3 Hz), 7.60 (1H, s), 7.19 (2H, m, J=8.3 Hz), 5.23-5.35 (1H, m), 4.76 (1H, d, J=1.8 Hz), 4.64 (1H, s), 2.56 (1H, td, J=11.0, 5.4 Hz), 2.05-2.19 (1H, m), 1.92-2.05 (2H, m), 1.83-1.92 (2H, m), 1.64-1.82 (7H, m), 1.58-1.64 (9H, m), 1.38-1.57 (9H, m), 1.22-1.31 (2H, m), 1.10-1.20 (2H, m), 1.07 (3H, s), 1.04 (3H, s), 0.97-1.01 (3H, m), 0.85-0.97 (6H, m)

reactant | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-formyl-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | 0.334 mmol, 200 mg | C(=O)[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H58O3
reactant | hydroxylamine hydrochloride | 2.67 mmol, 186 mg | Cl.NO
reactant | potassium carbonate | 2.67 mmol, 369 mg | C([O-])([O-])=O.[K+].[K+]
solvent | EtOH | 20 mL | CCO | C2H6O
product | tert-butyl 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((E)-(hydroxyimino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoate | O\N=C\[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)OC(C)(C)C)C=C1)C)[C@@H](CC2)C(=C)C | C41H59NO3
